US08614328B2
A mixture of 3-(3-chloro-benzyloxy)-phthalic acid (1.6 g, 5.1 mmol), alpha-amino-glutarimide hydrochloride (0.87 g, 5.3 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(3-chloro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (0.74 g, 37% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 6.44 min (99.8%); mp, 249-251° C.; 1H NMR (DMSO-d6) δ 2.02-2.07 (m, 1H, CHH), 2.54-2.62 (m, 2H, CH2), 2.83-2.91 (m, 1H, CHH), 5.12 (dd, J=6, 12 Hz, 1H, CH), 5.39 (s, 2H, CH2), 7.40-7.87 (m, 7H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.92, 48.77, 69.05, 115.72, 116.69, 120.10, 125.65, 126.85, 127.84, 130.42, 133.18, 133.26, 137.07, 138.76, 155.19, 165.32, 166.74, 169.89, 172.75. Anal Calcd For C20H15N2O5Cl+0.1H2O: C, 59.96; H, 3.82; N, 6.99; Cl, 8.85. Found: C, 59.93; H, 3.54; N, 6.91; Cl, 9.00.

reactant | 3-(3-chloro-benzyloxy)-phthalic acid | 5.1 mmol, 1.6 g | ClC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C15H11ClO5
reactant | alpha-amino-glutarimide hydrochloride | 5.3 mmol, 0.87 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(3-chloro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.74 g, 37% yield | ClC=1C=C(COC2=C3C(N(C(C3=CC=C2)=O)C2C(NC(CC2)=O)=O)=O)C=CC1 | C20H15ClN2O5
